US06326359B1
9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-(phenethylamino)-9H-purine-2-carbonitrile
(2R,3R,4R,5R)-4-(Benzoyloxy)-5-[2-cyano-6-(phenethylamino)-9H-purin-9-yl]-2-(methoxymethyl)tetrahydro-3-furanyl benzoate (8.0 g, 19.5 mmol) (preparation 46) was dissolved in a saturated ethanolic solution of ammonia (300 ml). The solution was allowed to stand at room temperature for 24 hr, then re-saturated with ammonia gas and allowed to stand for a further 48 hr. The solvent was then removed under reduced pressure and dichloromethane added to the residue. The dichloromethane was then removed under reduced pressure and more dichloromethane (50 ml) added. The insoluble material was filtered off and dried. This was found to be the title compound (3.1 g) which was a solid.

reactant | (2R,3R,4R,5R)-4-(Benzoyloxy)-5-[2-cyano-6-(phenethylamino)-9H-purin-9-yl]-2-(methoxymethyl)tetrahydro-3-furanyl benzoate | 19.5 mmol, 8.0 g | C(C1=CC=CC=C1)(=O)O[C@@H]1[C@H](O[C@H]([C@@H]1OC(C1=CC=CC=C1)=O)N1C2=NC(=NC(=C2N=C1)NCCC1=CC=CC=C1)C#N)COC | C34H30N6O6
solvent | ammonia | 300 ml | N | H3N
product | 9-[(2R,3R,4S,5R)-3,4-Dihydroxy-5-(methoxymethyl)tetrahydro-2-furanyl]-6-(phenethylamino)-9H-purine-2-carbonitrile | O[C@H]1[C@@H](O[C@@H]([C@H]1O)COC)N1C2=NC(=NC(=C2N=C1)NCCC1=CC=CC=C1)C#N | C20H22N6O4
